US06576766B1
(a) 3-(3-Diethoxyphosphoryl-4-trifluoromethanesulfonyloxy-phenyl)-propionic Acid Methyl Ester
3-(3-Diethoxyphosphoryl-4-hydroxyphenyl)-propionic acid methyl ester (3.16 g, 10 mmol) and PhNTf2 (3.93 g, 11 mmol) was dissolved in 30 mL dry DCM. The was cooled to 0° C. and NEt3 (1.67 mL 12 mmol) was added dropwise. The reaction was stirred at 0° C. for 1 hr and slowly warmed to rt. The reaction mixture was diluted with 85 mL ether, then washed with H2O, 1 N NaOH, H2O, brine. The organic layer was dried over MgSO4 and concentrated. Crude product was purified by flash column chromatography on silica gel (EtOAc/hexane 3:1, Rf=0.38) to obtain an oil 3.41 g (yield 78%).

reactant | 3-(3-Diethoxyphosphoryl-4-hydroxyphenyl)-propionic acid methyl ester | 10 mmol, 3.16 g | COC(CCC1=CC(=C(C=C1)O)P(=O)(OCC)OCC)=O | C14H21O6P
reactant | PhNTf2 | 11 mmol, 3.93 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | NEt3 | 12 mmol, 1.67 mL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 85 mL | CCOCC | C4H10O
product | 3-(3-Diethoxyphosphoryl-4-trifluoromethanesulfonyloxy-phenyl)-propionic Acid Methyl Ester | 3.41 g, yield 78% | COC(CCC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)P(=O)(OCC)OCC)=O | C15H20F3O8PS
